US07423144B2
2′,3′,5′-triacetoxy-2,6-dichloroadenosine (1.5 g) and cyclopentylamine (8 eq.) were diluted with ethanol (50 eq.) and the resulting solution was heated at reflux for about 15 hours, then cooled to room temperature and concentrated in vacuo to provide a crude residue which was diluted with a mixture of ethyl acetate and water and transferred to a separatory funnel. The organic layer was separated, dried over sodium sulfate and concentrated in vacuo to provide a crude residue which was purified using flash column chromatography on silica gel (8% MeOH-dichloromethane as eluent) to provide 2-chloro-N6-cyclopentyladenosine (0.948 g). MS m/z 370.32 [M+H]+.

reactant | 2′,3′,5′-triacetoxy-2,6-dichloroadenosine | 1.5 g | C(C)(=O)O[C@@]1([C@@H](O[C@@H]([C@]1(O)OC(C)=O)C(O)OC(C)=O)N1CN=C2C(N)(N=C(N=C12)Cl)Cl)O | C16H19Cl2N5O10
reactant | cyclopentylamine | 8 eq. | C1(CCCC1)N | C5H11N
reactant | ethanol | 50 eq. | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 2-chloro-N6-cyclopentyladenosine | 0.948 g | ClC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)NC1CCCC1 | C15H20ClN5O4
